US04683309
Preparation of 4-(3-bromophenoxy)benzil
To a 250 ml flask fitted with reflux condenser, thermometer, and nitrogen inlet were added 4-nitrobenzil (10.83 g, 42.49 mmol), 3-bromophenol (7.35 g, 42.49 mmol) and dimethylsulfoxide (150 ml). After stirring at room temperature for 20 minutes under a nitrogen atmosphere, potassium carbonate (11.73 g, 84.98 mmol) was added to the flask and the flask was heated to an internal temperature of 95° C. for 19 h under nitrogen. When cooled to room temperature the solution was very slowly poured into 12N HCL (500 ml) and extracted with methylene chloride (2×100 ml). The organic layer was washed with water (3×500 ml), dried over anhydrous magnesium sulfate, and evaporated to dryness by rotary evaporation. The light orange oil was then dissolved in 4:1 hexane:methylene chloride and chromatographed on a silica gel column (Woelm DCC, 211.94 g, 5 cm dia×24 cm H). The purified product was recrystallized twice from methylene chloride:methanol (25 ml:150 ml) to afford light yellow crystals (11.08 g, 69%): mp 75°-76° C.

reactant | 4-nitrobenzil | 42.49 mmol, 10.83 g | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H9NO4
reactant | 3-bromophenol | 42.49 mmol, 7.35 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium carbonate | 84.98 mmol, 11.73 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 4-(3-bromophenoxy)benzil | 11.08 g, 69% | BrC=1C=C(OC2=CC=C(C=C2)C(=O)C(=O)C2=CC=CC=C2)C=CC1 | C20H13BrO3
